US06258956B1
Methyl (S)-3-amino-3-(3-pyridyl)propanoate dihydrochloride
A mixture of methyl N-[(S)-1-(4-methoxyphenyl)ethyl)-(S)-3-amino-3-(3-pyridyl)propanoate (57.35 g, 0.148 mol) and triethylsilane (25.81 g, 0.222 mol) in formic acid (120 mL) was heated to 90° C. (oil-bath) while stirring. The initial suspension became a clear solution after 5 minutes at 90° C. Heating and stirring was continued for 2 h. The reaction mixture was cooled to room temperature and the solvent was removed under reduced pressure at 50° C. to give a residual oil. The residual oil was dissolved in ethyl acetate (300 mL) and methanol (100 mL). The solution was filtered. The filtrate was treated slowly with 9.8 M HCl in methanol (30.2 mL, 0.296 mol) with stirring. The resulting solution was diluted with ethyl acetate (200 mL) and heated on a steam-bath to remove excess methanol until the solution became cloudy. The mixture was then stirred at room temperature overnight and the solid product crystallized from the solution. Ethyl acetate (150 mL) was added to the suspension and the mixture was stirred for another 2 h. The solid was collected by filtration and washed with 200 mL of ethyl acetate, then dried in vacu for 1 h. The desired product was obtained as a white powder (27.05 g, 72% yield).

reactant | methyl N-[(S)-1-(4-methoxyphenyl)ethyl)-(S)-3-amino-3-(3-pyridyl)propanoate | 0.148 mol, 57.35 g | COC1=CC=C(C=C1)[C@H](C)N[C@@H](CC(=O)OC)C=1C=NC=CC1 | C18H22N2O3
reactant | triethylsilane | 0.222 mol, 25.81 g | C(C)[SiH](CC)CC | C6H16Si
reactant | HCl | 9.8 M | Cl | ClH
solvent | formic acid | 120 mL | C(=O)O | CH2O2
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 100 mL | CO | CH4O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 0.296 mol, 30.2 mL | CO | CH4O
product | Methyl (S)-3-amino-3-(3-pyridyl)propanoate dihydrochloride | 13% yield | Cl.Cl.N[C@@H](CC(=O)OC)C=1C=NC=CC1 | InChI=1S/C9H12N2O2.2ClH/c1-13-9(12)5-8(10)7-3-2-4-11-6-7;;/h2-4,6,8H,5,10H2,1H3;2*1H/t8-;;/m0../s1
